US07288553B2
2-(2-Ethylsulfanyl-1-methoxy-1-methyl-ethyl)-5-nitro-6-trifluoromethyl-1H-indole
This compound was prepared using the general de-protection procedure, as described in General Procedures Example. The starting material used was 2-(2-ethylsulfanyl-1-methoxy-1-methyl-ethyl)-1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indole (0.17 g, 0.39 mmol). The base used was 4N sodium hydroxide (0.19 mL, 0.77 mmol). The title compound was obtained as a yellow solid.

reactant | 2-(2-ethylsulfanyl-1-methoxy-1-methyl-ethyl)-1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indole | 0.39 mmol, 0.17 g | C(C)SCC(C)(OC)C=1N(C2=CC(=C(C=C2C1)[N+](=O)[O-])C(F)(F)F)S(=O)(=O)C | C16H19F3N2O5S2
reactant | sodium hydroxide | 0.77 mmol, 4N, 0.19 mL | [OH-].[Na+]
product | 2-(2-Ethylsulfanyl-1-methoxy-1-methyl-ethyl)-5-nitro-6-trifluoromethyl-1H-indole | C(C)SCC(C)(OC)C=1NC2=CC(=C(C=C2C1)[N+](=O)[O-])C(F)(F)F | C15H17F3N2O3S
